US04129654
35 g of 1-methyl-3-cyclohexylbarbituric acid is admixed with 15 ml of water and, then, 150 ml of phosphorus oxychloride is added. The reaction mixture is boiled for 1 hour, after which it is poured in ice-water, whereupon 35 g (dry weight) of yellow crystals are obtained. The crystals are dissolved in a small amount of chloroform and chromatographed on a column of silica gel (400 g). The first fraction is collected and concentrated to dryness. By the above procedure is obtained 14 g of 1-methyl-3-cyclohexyl-6-chlorouracil as colorless crystals, melting point: 132°-133° C.

reactant | 1-methyl-3-cyclohexylbarbituric acid | 35 g | CN1C(=O)N(C(=O)CC1=O)C1CCCCC1 | C11H16N2O3
reactant | water | 15 ml | O | H2O
reactant | phosphorus oxychloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-3-cyclohexyl-6-chlorouracil | 14 g | CN1C(=O)N(C(=O)C=C1Cl)C1CCCCC1 | C11H15ClN2O2
